US06528525B1
3-[4-[2-[2-(4-Fluorophenyl)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)propionic acid (exemplification No.7-231 compound)
In a similar manner to that described in Example 2, ethyl 3-[4-[2-[2-(4-fluorophenyl)pyridine-5-carbonylamino]ethoxy]-phenyl]-2-(4-isopropylphenoxy)propionate (540 mg), which is the product of Example 100, was reacted with aqueous sodium hydroxide solution (1N, 3.00 ml) and the reaction mixture was treated to give the title compound (495 mg) as a white powder.

reactant | ethyl 3-[4-[2-[2-(4-fluorophenyl)pyridine-5-carbonylamino]ethoxy]-phenyl]-2-(4-isopropylphenoxy)propionate | 540 mg | FC1=CC=C(C=C1)C1=NC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C | C34H35FN2O5
reactant | sodium hydroxide | 1N, 3.00 ml | [OH-].[Na+]
product | 3-[4-[2-[2-(4-Fluorophenyl)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)propionic acid | 495 mg | FC1=CC=C(C=C1)C1=NC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)O)OC1=CC=C(C=C1)C(C)C | C32H31FN2O5
